US06649638B1
2-Hydroxy-4-oxo-4-pyridin-3-ylbut-2-enoic acid methyl ester (1).
Acetyl pyridine (1.81 mL, 16.5 mmol) and methyl oxalate (3.12 g, 26.4 mmol) were dissolved in MeOH (30 mL, anhydrous). Sodium methoxide (6.9 mL, 25% in MeOH) was added over 10 min. Reaction solidified and was complete after 15 minutes. The solid mass was dissolved when acidified with HCl (10%, aqueous). The pH was then adjusted with NH4OH (conc) until precipitation ceased. The resulting solid was taken up in EtOAc. The aqueous layer was removed and extracted twice with EtOAc. The combined EtOAc layers were washed with water and brine, dried over MgSO4, filtered, and concentrated in vacuo. Collected 1 (2.90 g, 85%) as an off-white solid.

reactant | Acetyl pyridine | 16.5 mmol, 1.81 mL | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | methyl oxalate | 26.4 mmol, 3.12 g | C(C(=O)[O-])(=O)OC
reactant | Sodium methoxide | 6.9 mL | C[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | MeOH | 30 mL | CO | CH4O
product | 2-Hydroxy-4-oxo-4-pyridin-3-ylbut-2-enoic acid methyl ester | COC(C(=CC(C=1C=NC=CC1)=O)O)=O | C10H9NO4
